US05569768
Ethyl 2-[5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indole-1-yl]octanoate (0.174 mmoles, 80 mg) was dissolved in 1 ml THF. Methyl iodide (0.15 ml, 1.1 mmole) was added. After stirring overnight at room temperature, the solution was concentrated. The residue was dissolved in 7 ml of 2:1 MeOH:2N NaOH and heated at 90° C. for 24 hours. The reaction was cooled to 0° C. and washed with ether. The pH was adjusted to 1.0 using 2N HCL. The product was extracted with 20% EtOH in ethyl acetate. The organic layer dried and concentrated to yield 35 mg of 2-[5-(2-Carboxyphenyl)indol-1-yl]octanoic acid that solidified upon standing. (MS)

reactant | Ethyl 2-[5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indole-1-yl]octanoate | 0.174 mmoles, 80 mg | CC1(N=C(OC1)C1=C(C=CC=C1)C=1C=C2C=CN(C2=CC1)C(C(=O)OCC)CCCCCC)C | C29H36N2O3
reactant | Methyl iodide | 1.1 mmole, 0.15 ml | CI | CH3I
reactant | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-[5-(2-Carboxyphenyl)indol-1-yl]octanoic acid | 35 mg | C(=O)(O)C1=C(C=CC=C1)C=1C=C2C=CN(C2=CC1)C(C(=O)O)CCCCCC | C23H25NO4
